US04634713
A solution of (S)-1-benzyloxy-3-[o-(cyclopropylmethoxy)phenoxy]-2-hydroxypropane (10.97 g) in 100 ml ethanol, to which is added 3.5 g of 10% palladium on carbon, is hydrogenated at 45 lbs. pressure at room temperature until the uptake of hydrogen ceases (about 10 minutes). The catalyst is filtered off, washed with ethanol and the filtrate concentrated under reduced pressure leaving a crystalline residue that is recrystallized from 35 ml of ethanol; (S)-3-[o-(cyclopropylmethoxy)phenoxy]-1,2-propanediol, m.p. 95°-97°, [α]D25 =5.32° (c=0.99, CH3OH) is obtained.

reactant | (S)-1-benzyloxy-3-[o-(cyclopropylmethoxy)phenoxy]-2-hydroxypropane | 10.97 g | C(C1=CC=CC=C1)OC[C@@H](COC1=C(C=CC=C1)OCC1CC1)O | C20H24O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 3.5 g | [Pd] | Pd
product | (S)-3-[o-(cyclopropylmethoxy)phenoxy]-1,2-propanediol | C1(CC1)COC1=C(OC[C@H](CO)O)C=CC=C1 | C13H18O4
